US04985427
Methyl [1-(3-chlorophenyl)-2-[(methylamino)carbonyl]hydrazino]acetate
Methyl [1-(3-chlorophenyl)hydrazino]acetate (1.78 g) was dissolved in acetonitrile (20 ml) under nitrogen at room temperature. Methyl isocyanate (1.7 ml) was added to the solution which was then heated at 80° for 2 h. The solvent was removed in vacuo to give an oily residue which solidified on standing. This solid was triturated with ether and filtered to give the title compound (2.0 g), m.p. 121°-122°.

reactant | Methyl [1-(3-chlorophenyl)hydrazino]acetate | 1.78 g | ClC=1C=C(C=CC1)N(N)CC(=O)OC | C9H11ClN2O2
reactant | Methyl isocyanate | 1.7 ml | CN=C=O | C2H3NO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Methyl [1-(3-chlorophenyl)-2-[(methylamino)carbonyl]hydrazino]acetate | 2.0 g | ClC=1C=C(C=CC1)N(NC(=O)NC)CC(=O)OC | C11H14ClN3O3
